US08252797B2
A mixture of 1,3-dimethyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (obtained following literature procedure U.S. Pat. No. 6,825,349) (0.100 g, 0.27 mmol), 1-(3-Bromo-prop-1-ynyl)-3-fluoro benzene (0.057 g, 0.27 mmol), K2CO3 (0.086 mg, 0.62 mmol) and acetone (5 ml) were refluxed at 80° C. for 5 hrs. The reaction mixture was cooled to room temperature and filtered off solid K2CO3 and evaporated excess of organic solvent under vacuum. The product was purified by column chromatography (2% methanol in dichloromethane) to get pure 8-{1-[3-(3-fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dimethyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.111 g, 82%).

reactant | 1,3-dimethyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | CN1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NNC1)C)=O | C16H24N6O3Si
reactant | 1-(3-Bromo-prop-1-ynyl)-3-fluoro benzene | 0.27 mmol, 0.057 g | BrCC#CC1=CC(=CC=C1)F | C9H6BrF
reactant | K2CO3 | 0.62 mmol, 0.086 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 8-{1-[3-(3-fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dimethyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.111 g, 82% | FC=1C=C(C=CC1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)C)=O)C | C25H29FN6O3Si
